US08455491B2
Compound No. 18: 2-(4-fluorophenyl)-6-(4-cyclo-propylpiperazin-1-yl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine
0.15 ml of acetic acid and 0.32 ml (1.6 mmol) of (1-ethoxycyclopropoxy)trimethylsilane are added, in a reactor, to 0.10 g (0.27 mmol) of 2-(4-fluorophenyl)-6-(piperazin-1-yl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine in 3 ml of methanol. 1.2 ml (1.2 mmol) of a molar solution of sodium cyanoborohydride in tetrahydrofuran are then added. After stirring for 15 minutes, the mixture is heated at 50° C. for 2 hours. After cooling, the product is extracted with dichloromethane, and the organic phase is filtered over a hydrophobic cartridge and then concentrated under reduced pressure. The residue is chromatographed on a silica gel column, to give 0.064 g of product. The latter is crystallized from diisopropyl ether, to give 0.053 g of light yellow crystals after drying.

reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 1.6 mmol, 0.32 ml | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | 2-(4-fluorophenyl)-6-(piperazin-1-yl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine | 0.27 mmol, 0.10 g | FC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)N2CCNCC2)C1C1=CN=NC=C1 | C20H18FN7
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-6-(4-cyclo-propylpiperazin-1-yl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine | 0.064 g | FC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C2CC2)C1C1=CN=NC=C1 | C23H22FN7
